US09290451B2
a) 6-Cyclopentenyl-pyridine-2-carboxylic acid
A mixture of 6-bromo-pyridine-2-carboxylic acid (CAN 21190-87-4, 0.375 g, 1.86 mmol), 2-cyclopentenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (CAN 287944-10-9, 0.3 g, 1.6 mmol), Pd(dppf)Cl2 (CAN 95464-05-4, 0.06 g, 0.08 mmol) and K2CO3 (0.642 g, 4.7 mmol) in DMF (10 mL) and water (1 mL) was heated to 100° C. overnight. After filtration, the filtrate was concentrated and the residue was purified by column chromatography (silica gel, 15 g, eluting with 10% ethyl acetate in petroleum ether) to give the title compound (0.08 g, 23%) as white solid; MS (EI): m/e=190.1 [M+H]+.

reactant | 6-bromo-pyridine-2-carboxylic acid | 1.86 mmol, 0.375 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | 2-cyclopentenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.6 mmol, 0.3 g | C1(=CCCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO2
reactant | K2CO3 | 4.7 mmol, 0.642 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.08 mmol, 0.06 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-Cyclopentenyl-pyridine-2-carboxylic acid | 0.08 g, 23% | C1(=CCCC1)C1=CC=CC(=N1)C(=O)O | C11H11NO2
